US04963543
To a solution of (2S, 4R)-2-aminomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (8.43 g) in dichloromethane (80 ml) were added t-butoxycarbonylglycine (3.61 g), 1-hydroxybenzotriazole (2.78 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (3.95 g) under ice-cooling. The mixture was stirred under ice-cooling for 1 hour and at ambient temperature for 15 hours. The solution was washed with water (80 ml), saturated aqueous sodium hydrogen carbonate (80 ml), and brine (80 ml) successively, dried over magnesium sulfate, and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (80 g) and eluted with a mixture of methanol and chloroform (2:98 v/v) to give (2S, 4R)-4-t-butyldimethylsilyloxy-2-[(t-butoxycarbonylamino)methylcarbonyl]aminomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (9.07 g).

reactant | (2S, 4R)-2-aminomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 8.43 g | NC[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C19H31N3O5Si
reactant | t-butoxycarbonylglycine | 3.61 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 1-hydroxybenzotriazole | 2.78 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 3.95 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | (2S, 4R)-4-t-butyldimethylsilyloxy-2-[(t-butoxycarbonylamino)methylcarbonyl]aminomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 9.07 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CNC(=O)CNC(=O)OC(C)(C)C | C26H42N4O8Si
